US06881844B2
A solution of 2,2,2-trifluoro-1-(1-isopropyl-6-methoxy-1H-indol-3-yl)-ethanone (950 mg, 3.33 mmol) in a 20% aqueous sodium hydroxide solution (12 mL) was heated at 105° C. for 18 h. At this time, the reaction was cooled to 25° C., partitioned between water (50 mL) and ethyl acetate (50 mL), and treated with a 1N aqueous hydrochloric acid solution (35 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting solids were collected by filtration, washed with petroleum ether, and dried in vacuo to afford 1-isopropyl-6-methoxy-1H-indole-3-carboxylic acid (553 mg, 71%) as orange needles: mp 162-163° C.; EI-HRMS m/e calcd for C13H15NO3 (M+) 233.1052, found 233.1056.

reactant | 2,2,2-trifluoro-1-(1-isopropyl-6-methoxy-1H-indol-3-yl)-ethanone | 3.33 mmol, 950 mg | FC(C(=O)C1=CN(C2=CC(=CC=C12)OC)C(C)C)(F)F | C14H14F3NO2
reactant | sodium hydroxide | 12 mL | [OH-].[Na+]
product | 1-isopropyl-6-methoxy-1H-indole-3-carboxylic acid | 553 mg, 71% | C(C)(C)N1C=C(C2=CC=C(C=C12)OC)C(=O)O | C13H15NO3
